US06909003B2
To a mixture of diisopropylamine (2.42 g, 24.0 mmol) and 8.88 ml (24.0 mmol) butyllithium (2.7M in Heptan) in THF (20 ml) at −70° C. is added a soln. of crotonic acid (1.03 g, 12.0 mmol) in THF (10.0 ml). After stirring at −70° C. and 0° C., a soln. of cyclopropanecarboxylic acid N,O-dimethylhydroxylamide (1.29 g, 10.0 mmol) in THF (10.0 ml) is added. The solution is heated to 48° C. After cooling to −50° C., a solution of glacial acetic acid (5 ml) in THF (10 ml), and 20% aq. NaCl (25 ml) are slowly added. The pH is adjusted to 1.5 with 2M HCl and the mixture is extracted with CH2Cl2 (3×25 ml). Organic phases are washed with 20% aqeous NaCl (2×25 ml) and evaporated to dryness under reduced pressure. The resulting yellow oil is dissolved in toluene (100 ml). 4-Fluoro-2′-aminobenzophenone methansulfonic acid salt (3.23 g, 10.4 mmol) is added and the solution is refluxed in a water separator apparatus for 24 h. Upon cooling, a brown precipitate is formed, which is separated from the mother liquor and purified by chromatography on silica gel (CH2Cl2—MeOH) to afford (E)-3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-acrylic acid. MS (ES): [M−H]− 332.

reactant | diisopropylamine | 24.0 mmol, 2.42 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 24.0 mmol, 2.7M, 8.88 ml | C(CCC)[Li]
reactant | crotonic acid | 12.0 mmol, 1.03 g | C(\C=C\C)(=O)O | C4H6O2
reactant | cyclopropanecarboxylic acid N,O-dimethylhydroxylamide | 10.0 mmol, 1.29 g | CN(C(=O)C1CC1)OC | C6H11NO2
reactant | NaCl | 25 ml | [Na+].[Cl-]
reactant | HCl | 2M | Cl | ClH
reactant | 4-Fluoro-2′-aminobenzophenone methansulfonic acid salt | 10.4 mmol, 3.23 g | CS(=O)(=O)O.FC1=CC=C(C(=O)C2=C(C=CC=C2)N)C=C1
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (E)-3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-acrylic acid | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/C(=O)O)C1=CC=C(C=C1)F | C21H16FNO2
